US05571807
Cis(+)-3-acetyloxy-2,3-dihydro-5-(2-methyl-3-dimethylaminopropyl)-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one oxalate (diastereoisomer A)
5 g cis(+)-3-acetyloxy-2,3-dihydro-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one were dissolved in 30 ml dimethylformamide, cooled at -7° C. 1.4 g 88% KOH and, after 10 minutes, 3.8 g 1-bromo-3-chloro-2-methylpropane were slowly added. The temperature was then raised to 0° C. and the mixture was stirred for 4 hours. The reaction mixture was then poured in 250 ml 0.6N NH4Cl solution and extracted with CH2Cl2. The collected organic phases were washed with H2O, dried on Na2SO4 and evaporated under reduced pressure. 6.4 g a thick orange oil were obtained and were dissolved in hot isopropyl alcohol. A crystalline solid precipitated by cooling, m.p. 100°-103° C.

reactant | cis(+)-3-acetyloxy-2,3-dihydro-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one | 5 g | C(C)(=O)O[C@@H]1[C@@H](SC2=C(NC1=O)C=CC=C2)C2=CC=C(C=C2)OC | C18H17NO4S
reactant | KOH | 1.4 g | [OH-].[K+]
reactant | 1-bromo-3-chloro-2-methylpropane | 3.8 g | BrCC(CCl)C | C4H8BrCl
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | NH4Cl | 0.6N, 250 ml | [NH4+].[Cl-]
product | Cis(+)-3-acetyloxy-2,3-dihydro-5-(2-methyl-3-dimethylaminopropyl)-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one oxalate | 6.4 g | C(C(=O)O)(=O)O.C(C)(=O)O[C@@H]1[C@@H](SC2=C(N(C1=O)CC(CN(C)C)C)C=CC=C2)C2=CC=C(C=C2)OC | InChI=1S/C24H30N2O4S.C2H2O4/c1-16(14-25(3)4)15-26-20-8-6-7-9-21(20)31-23(22(24(26)28)30-17(2)27)18-10-12-19(29-5)13-11-18;3-1(4)2(5)6/h6-13,16,22-23H,14-15H2,1-5H3;(H,3,4)(H,5,6)/t16?,22-,23+;/m1./s1
